spice
* SPICE Netlist

* Voltage Sources
VDD 4 0 DC 1.8V
Vin Vin 0 DC 0V

* NMOS Transistor
M1 Vout 3 2 2 NMOS

* Resistors
R1 4 3 1k
R2 3 0 1k
RD 4 Vout 1k
RS 2 0 1k

* Capacitors
C1 Vin 3 1uF

* Model Definitions
.model NMOS nmos level=1